2104-02-20 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - intermittent chest pain episodes, up to [**8-5**], given morphine and
   increased nitro drip to relieve pain.
   - slept well w morphine and ambien overnight but had another episode of
   chest pain to [**5-5**], similar quality of pain to his MI pain, sharp,
   radiating to both arms and to left jaw
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.38 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2104-2-19**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-2-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98
   HR: 61 (61 - 77) bpm
   BP: 101/61(70) {86/51(59) - 132/73(83)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    884 mL
                                                                    631 mL
   PO:
             TF:
   IVF:
                                                                    884 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                    631 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: well nourished male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple , JVP difficult to assess b/c of thick neck
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2.
   LUNGS: No chest wall deformities. Resp unlabored, no accessory muscle
   use.  Diffuse crackles, increased at bases bilaterally.
   ABDOMEN: Soft, obese, mildly distended, diffusely mildly tender.
   EXTREMITIES: Trace bilateral lower extremity edema. Right groin site
   nontender, no hematomas or bleeding, clean/dry/intact.
   PULSES:
   Right: Carotid 2+ DP 2+
   Left: Carotid 2+ DP 2+
   Labs / Radiology
   148 K/uL
   12.9 g/dL
   143 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   16 mg/dL
   99 mEq/L
   133 mEq/L
   38.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2104-2-19**]  07:31 PM
                             [**2104-2-20**]  05:08 AM
   WBC
   14.5
   14.5
   Hct
   39.5
   38.6
   Plt
   145
   148
   Cr
   1.3
   1.5
   TropT
   16.72
   Glucose
   133
   143
   Other labs: PT / PTT / INR:12.6/25.1/1.1, CK / CKMB /
   Troponin-T:1350/75/16.72, Differential-Neuts:83.1 %, Lymph:8.5 %,
   Mono:7.5 %, Eos:0.7 %, Ca++:8.5 mg/dL, Mg++:3.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   71 year old male with HTN, HLD who was transferred from an outside
   hospital for STEMI after 4 days of constant chest pain, now s/p PCI
   with DES x2 in LAD.
   # CAD, s/p STEMI:
   s/p PCI w DESx2 to mid LAD and mid distal LAD. Patient had 4 days of
   constant chest pain with peak CK [**2093**] and Trop-I of 74. Currently chest
   pain free.  EKG shows persistent ST elevations in leads V2-V5 after
   intervention, may have aneurysm, risk of free wall rupture/VSD.
   - integrilin drip x18hrs
 finishes this AM at 10am
   - aspirin, prasugrel
   - cont low dose metoprolol
   - start high dose statin
   - wean off IV nitro
   - morphine for pain control
   - TTE this AM
   - if TTE shows apical hypokinesis or aneurysm, as expected, will start
   heparin drip or lovenox for prevention of LV thrombus
   - will need coumadin chronically for aneurysm
   - Physical therapy
   # Acute Renal Failure
   Received small dye load during Cardiac Cath yesterday. Does not appear
   dry on exam.
   - urine electrolytes
   # Acute Fluid overload
   Likely secondary to stunned myocardium post MI and decreased EF.
   Patient not on diuretics at home aside from Triamterene/HCTZ for BP
   control.
   - monitor for now
   .
   # Hypertension
   SBPs 100-110s on nitro drip overnight.
   - Will wean nitro drip as tolerated for pain control and restart home
   triamterene/HCTZ
   - can uptitrate beta blocker as well as tolerated by BP
   .
   # BPH
   - continue home flomax and cardura
   .
   ICU Care
   Nutrition: Cardiac healthy
   Lines:
   22 Gauge - [**2104-2-19**] 05:05 PM
   20 Gauge - [**2104-2-19**] 05:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
 likely to start heparin drip today
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now ; can transfer to floor this afternoon if
   stable and chest pain free

2104-02-21 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - called out to floor yesterday; no beds yet, so wasn't transferred
   - Weaned off nitro
   - patient was chest pain free for most of day yesterday but described
   chest pain and SOB while walking with PT.
   -TEE demonstrated EF30%. Moderate to severe regional left ventricular
   systolic dysfunction with mid to distal septal, anterior,
   antero-lateral and apical hypokinesis to akinesis. No masses or thrombi
   are seen in the left ventricle. There is no ventricular septal defect.
   Right ventricular chamber size is normal with borderline normal free
   wall function. Trivial pericardial effusion. Trivial MR.
   [**Name14 (STitle) 11712**] Heparin IV per Weight-Based Dosing Guidelines yesterday at 1pm
   -Urine studies: FENA .08%
   - did not respond to po 20mg lasix overnight, but did respond to 20mg
   IV lasix
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-2-20**] 08:30 AM
   Coumadin (Warfarin) - [**2104-2-20**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-2-21**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**05**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 67 (57 - 77) bpm
   BP: 128/68(80) {98/55(68) - 149/79(92)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,431 mL
                                                                     88 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    771 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,775 mL
   Urine:
                                                                    750 mL
                                                                  1,775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    681 mL
                                                                 -1,687 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GENERAL: well nourished male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric.  Moist mucus membranes
   NECK: Supple , JVP  just mildly elevated
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2.
   LUNGS: No chest wall deformities. Resp unlabored, no accessory muscle
   use.  Diffuse crackles, increased at bases bilaterally.
   ABDOMEN: Soft, obese, mildly distended, diffusely mildly tender,
   abdominal hernia just left of midline.
   EXTREMITIES: No lower extremity edema. Right groin site tender,
   clean/dry/intact w small ecchymosis.
   PULSES:
   Right: Carotid 2+ DP 2+
   Left: Carotid 2+ DP 2+
   Labs / Radiology
   155 K/uL
   12.6 g/dL
   139 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   27 mg/dL
   100 mEq/L
   134 mEq/L
   36.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2104-2-19**]  07:31 PM
                             [**2104-2-20**]  05:08 AM
                             [**2104-2-21**]  02:18 AM
   WBC
   14.5
   14.5
   12.8
   Hct
   39.5
   38.6
   36.4
   Plt
   145
   148
   155
   Cr
   1.3
   1.5
   1.6
   TropT
   16.72
   Glucose
   133
   143
   139
   Other labs: PT / PTT / INR:12.6/64.8/1.1, CK / CKMB /
   Troponin-T:1350/75/16.72, Differential-Neuts:83.1 %, Lymph:8.5 %,
   Mono:7.5 %, Eos:0.7 %, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: CATH:
   Selective coronary angiography in this left dominant system
   demonstrated single vessel disease. The LMCA, LCx and RCA had minimal
   disease. The LAD had a total occlusion mid-vessel.
   ECHO:
   EF 30%
   The left atrium is mildly dilated. Left ventricular wall thicknesses
   and cavity size are normal. There is moderate to severe regional left
   ventricular systolic dysfunction with mid to distal septal, anterior,
   antero-lateral and apical hypokinesis to akinesis. No masses or thrombi
   are seen in the left ventricle. There is no ventricular septal defect.
   Right ventricular chamber size is normal. with borderline normal free
   wall function. The aortic arch is mildly dilated. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   No aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The estimated pulmonary artery systolic pressure
   is normal. There is a trivial/physiologic pericardial effusion.
   Assessment and Plan
   71 year old male with HTN, HLD who was transferred from an outside
   hospital for STEMI after 4 days of constant chest pain, now s/p PCI
   with DES x2 in LAD.
   # CAD, s/p STEMI:
   s/p PCI w DESx2 to mid LAD and mid distal LAD. Patient had 4 days of
   constant chest pain with peak CK [**2093**] and Trop-I of 74. Currently chest
   pain free.  EKG shows persistent ST elevations in leads V2-V5 after
   intervention, may have aneurysm, risk of free wall rupture/VSD.
   Integrilin drip finished yesterday morning 10am.  Weaned off nitro
   yesterday.  Complained of chest pain w physical therapy yesterday.
   Persistent ST changes on EKG suggest aneurysm.
   - continue aspirin, prasugrel
   - cont low dose metoprolol
   - start high dose statin
   - morphine for pain control
   - started on heparin drip for prevention of LV thrombus
   - cont coumadin chronically for aneurysm
   # Acute Renal Failure
   Received small dye load (130cc) during Cardiac Cath two days ago.
   Urine electrolytes show FeNa 0.08%, and hyaline casts in UA also
   suggest intravascular volume depletion; FeNa could also suggest
   contrast-induced nephropathy.
   - cont to monitor
   # Acute Systolic Congestive Heart Failure
   Patient w mildly elevated JVP and persistent crackles/rales in lungs.
   Diuresed last night.
   -          20mg IV lasix this AM and cont to monitor fluid status
   # Fever
   Likely secondary to MI still; UA negative.
   - check CXR
   # COPD
   Mild wheezes on exam today
   - ipratropium and albuterol nebs
   # Hypertension
   - restart home triamterene/HCTZ
   - can uptitrate beta blocker as well as tolerated by BP
   # BPH
   - continue home flomax and cardura
   ICU Care
   Nutrition:   Cardiac Healthy
   Glycemic Control:
   Lines:
   22 Gauge - [**2104-2-19**] 05:05 PM
   20 Gauge - [**2104-2-19**] 05:19 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   Transfer to floor